US08609656B2
In 15 ml of tetrahydrofuran, 300 mg (0.620 mmol) of 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride was dissolved, and 771 mg (3.10 mmol) of tert-butoxycarbonyl-L-leucine, 1.60 g (3.10 mmol) of (benzotriazolyloxy)tripyrrolidino-phosphonium hexa-fluorophosphate (PyBOP) and 0.54 mL (3.10 mmol) of Hunig's base were added thereto and the mixture solution was stirred at room temperature for three days. The reaction solution was concentrated under reduced pressure, and then the residue was partitioned between ethyl acetate and water. The organic phase was washed with a saturated sodium chloride solution, dried, and then concentrated under reduced pressure. The residue was purified by Megabond Elute Silica Gel (10 g, ethyl acetate), to obtain 320 mg (78%) of [1-(9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-ylcarbonyl)-3-methyl-butyl]carbamic acid tert-butyl ester as a white solid.

reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | 0.620 mmol, 300 mg | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | tert-butoxycarbonyl-L-leucine | 3.10 mmol, 771 mg | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | (benzotriazolyloxy)tripyrrolidino-phosphonium hexa-fluorophosphate | 3.10 mmol, 1.60 g | F[P-](F)(F)(F)(F)F.N1N=NC2=C1C=CC=C2O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | Hunig's base | 3.10 mmol, 0.54 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | [1-(9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-ylcarbonyl)-3-methyl-butyl]carbamic acid tert-butyl ester | 320 mg, 78% | C(C)(C)(C)OC(NC(CC(C)C)C(=O)C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C30H31ClF3N7O4
